US05021430
A solution of 4.5 g of S-benzyl-(L)-cysteine methyl ester and 2.8 g of (S,S)-2,4-dibenzylglutaric anhydride in 25 ml of pyridine and 25 ml of methylene chloride is stirred at room temperature overnight. The mixture is concentrated, the residue is dissolved in ether and the solution is washed with lN hydrochloric acid, saturated sodium chloride, dried over magnesium sulfate, concentrated, to yield N-[(S,S)-2,4-dibenzyl-4-carboxybutyryl]-S-benzyl-(L)-cysteine methyl ester (oil).

reactant | S-benzyl-(L)-cysteine methyl ester | 4.5 g | COC([C@@H](N)CSCC1=CC=CC=C1)=O | C11H15NO2S
reactant | (S,S)-2,4-dibenzylglutaric anhydride | 2.8 g | C(C1=CC=CC=C1)[C@H]1C(=O)OC([C@@H](C1)CC1=CC=CC=C1)=O | C19H18O3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[(S,S)-2,4-dibenzyl-4-carboxybutyryl]-S-benzyl-(L)-cysteine methyl ester | COC([C@@H](NC([C@@H](C[C@H](C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1)=O)CSCC1=CC=CC=C1)=O | C30H33NO5S
